US05616596
4-[5-(4-fluorophenylmethyl)-2-thienyl]-3-butyn-2-ol (9.16 g, 71%) was prepared according to the method of Example 1, step 3, except substituting 2-bromo-5-(4-fluorophenylmethyl)thiophene (13.3 g, 49.0 mmol), prepared as in step 2, for 2-bromo-5-(4-fluorophenylmethyl)furan.

reactant | 2-bromo-5-(4-fluorophenylmethyl)thiophene | 49.0 mmol, 13.3 g | BrC=1SC(=CC1)CC1=CC=C(C=C1)F | C11H8BrFS
reactant | 2-bromo-5-(4-fluorophenylmethyl)furan | BrC=1OC(=CC1)CC1=CC=C(C=C1)F | C11H8BrFO
product | 4-[5-(4-fluorophenylmethyl)-2-thienyl]-3-butyn-2-ol | 9.16 g, 71% | FC1=CC=C(C=C1)CC1=CC=C(S1)C#CC(C)O | C15H13FOS
